US07276508B2
Preparation of Polymer Bound 3-[4-(7-chloro-1H-indol-3-yl)piperidin-1-yl]propionic acid
A 25 mL round bottom flask was charged with polymer bound 7-chloro-3-(piperidin-4-yl)-1H-indole (1.0 g, 0.98 mmol), triethylamine (80.2 mL), tert-butyl 3-bromopropionate and dry acetonitrile (5 mL). The mixture was stirred at 80° C. for 3 h. After cooling to room temperature, the resin was filtered off and washed with dry acetonitrile (3×10 mL) and dry dichloromethane (3×10 mL). The resin was treated for 20 minutes with 8 mL of a 1:1 mixture of dichloromethane and trifluoroacetic acid containing anisole (2%, w/w) and methionine (0.2%, w/w) (Caution: Generation of carbon dioxide). The resin was filtered off and washed with dry dichloromethane (10 mL), a 1:1 mixture of dichloromethane:triethylamine (3×10 mL) and dry dichloromethane (3×10 mL). The resin was dried in vacuo (20° C., 20 h) to yield the title resin (1.0 g).

reactant | 7-chloro-3-(piperidin-4-yl)-1H-indole | 0.98 mmol, 1.0 g | ClC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15ClN2
reactant | triethylamine | 80.2 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-bromopropionate | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[4-(7-chloro-1H-indol-3-yl)piperidin-1-yl]propionic acid | 1.0 g | ClC=1C=CC=C2C(=CNC12)C1CCN(CC1)CCC(=O)O | C16H19ClN2O2
